US08445480B2
Step A. 2′-Fluoro-6-hydroxy-5-nitrobiphenyl-3-carbonitrile
To a mixture of 4-hydroxy-3-iodo-5-nitrobenzonitrile (870 mg) and 2-fluorophenylboronic acid (630 mg) in acetone (50 ml) and water (12.5 ml) was added the palladium(II) acetate (73 mg) and potassium carbonate (830 mg). The reaction was then heated for 18 h at 60° C. The mixture was then concentrated in vacuo and filtered through a plug of silica gel, eluting with ethyl acetate. The eluent was concentrated in vacuo and the residue was purified via flash chromatography on a Biotage Horizon, 40 M column, eluting with 1 column volume of 100% hexanes, followed by a gradient of 0-40% ethyl acetate in hexanes over 10 column volumes to provide the title compound (668 mg, 86%). Mass spectrum (ESI) 257.1 (M−1).

reactant | 4-hydroxy-3-iodo-5-nitrobenzonitrile | 870 mg | OC1=C(C=C(C#N)C=C1[N+](=O)[O-])I | C7H3IN2O3
reactant | 2-fluorophenylboronic acid | 630 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 830 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 12.5 ml | O | H2O
catalyst | palladium(II) acetate | 73 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2′-Fluoro-6-hydroxy-5-nitrobiphenyl-3-carbonitrile | 668 mg, 86% | FC1=C(C=CC=C1)C1=CC(=CC(=C1O)[N+](=O)[O-])C#N | C13H7FN2O3
